US05716971
To a solution of 2-bromo-3-(1,3-dioxolan-2-yl)pyridine (m.p. 35°-40° C.; 3.60 g) synthesized by a known method in THF (60 ml) was added, at -78° C. under argon atmosphere, a 1.6M n-butyl lithium hexane solution (10.8 ml). The mixture was stirred for 15 minutes at the same temperature, to which was then added a solution of 5-bromo-2-methoxymethoxybenzaldehyde (3.83 g) in THF (10 ml). The mixture was stirred for 15 minutes at the same temperature, then stirred for further 20 minutes while warming up to room temperature. The reaction mixture was poured into a saturated aqueous saline solution, which was subjected to extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 2-(5-bromo-α-hydroxy-2-methoxymethoxybenzyl)-3-(1,3-dioxolan-2-yl)pyridine (4.50 g) (Compound D-2). The physical properties and spectrum data are shown in Table 13 and Table 14.

reactant | 2-bromo-3-(1,3-dioxolan-2-yl)pyridine | 3.60 g | BrC1=NC=CC=C1C1OCCO1 | C8H8BrNO2
reactant | n-butyl lithium hexane | 1.6M, 10.8 ml | CCCCCC.C(CCC)[Li]
reactant | 5-bromo-2-methoxymethoxybenzaldehyde | 3.83 g | BrC=1C=CC(=C(C=O)C1)OCOC | C9H9BrO3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(5-bromo-α-hydroxy-2-methoxymethoxybenzyl)-3-(1,3-dioxolan-2-yl)pyridine | 4.50 g | BrC=1C=CC(=C(C(O)C2=NC=CC=C2C2OCCO2)C1)OCOC | C17H18BrNO5
